US04007175
Preparation of 1-methyl-3-methoxy-5-(2-fluorophenyl) biuret
To 35 g (0.27 mol) of 1-methyl-3-methoxy urea in 150 ml xylene was added dropwise a solution of 37 g (0.27 mol) 2-fluorophenylisocyanate in 100 ml of xylene. The reaction mixture was refluxed for 4 hours. The reaction mixture was filtered while warm to remove a small amount of triethylamine hydrochloride (impurity in the urea reactant). The filtrate was evaporated to give the biuret product as a solid (m.p. 144°-147° C after recrystallization from benzene). Elemental analysis for fluorine showed: calc. 7.88%, found 7.64%.

reactant | 1-methyl-3-methoxy urea | 0.27 mol, 35 g | CNC(=O)NOC | C3H8N2O2
reactant | 2-fluorophenylisocyanate | 0.27 mol, 37 g | FC1=C(C=CC=C1)N=C=O | C7H4FNO
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-methyl-3-methoxy-5-(2-fluorophenyl) biuret | CNC(=O)N(C(=O)NC1=C(C=CC=C1)F)OC | C10H12FN3O3
